Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
S/P Fall and Nyquil Ingestion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o female with multiple medical problems presents one day 
after drinking 2 bottles of nyquil for pain control after a 
fall. The patient reports a mechanical fall, slipping on the 
floor the day prior to admission. She hit her ribs and was in 
pain so decided to go to bed to see if the pain would go away. 
When her pain continued and she was unable to sleep she decided 
to take Nyquil and ended up taking between ___ bottles. The next 
morning she still had pain and presented to the ED for further 
evaluation.  
 
Past Medical History:
Acne  
Gibroid Uterus  
Cataracts  
H/O Breast Mass  
Heart Murmur  
UTI  
DM I  
Hypothyroid  
Vit D Deficiency  
Dysuria  
Osteopenia  
Endometrial Abnormality  
Panic Attacks  
Seizure Disorder 
 
Social History:
___
Family History:
N/C
 
Physical Exam:
Vitals: 97.9 122/69 82 16 99%RA  
Gen: NAD, AOX3, Pleasant and talkative 
HEENT: PERRLA, EOMI, MMM, sclera anicteric, not injected, no 
exudates  
Neck: supple  
Cardiovascular: RRR normal s1, s2, no murmurs, rubs or gallops  
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi. Minimal MSK tenderness right breast and on 
left ribs, but no evidence of ecchymosis or other problem.  
Abd: Soft, non-tender, non distended, no heptosplenomegally, 
bowel sounds present, guaiac negative  
Extremities: 1+ pitting edema ___ ___, No cyanosis, clubbing, 
joint swelling  
Neurological: CN II-XII inatct  
Integument: Warm, moist, no rash or ulceration  
 
Pertinent Results:
___ 09:50AM BLOOD ALT-54* AST-60* LD(LDH)-323* AlkPhos-87 
TotBili-0.3
___ 07:00PM BLOOD ALT-47* AST-47* AlkPhos-78 TotBili-0.4
___ 06:40AM BLOOD ALT-42* AST-40 AlkPhos-84 TotBili-0.___ y/o female with multiple medical problems presented one day 
after drinking 2 bottles of NyQuil for pain control after a 
fall. The patient reported a mechanical fall, slipping on the 
floor and hitting her ribs. She was in pain and unable sleep and 
she decided to take NyQuil and ended up taking between ___ 
bottles. The next morning she still had pain and presented to 
the ED for further evaluation.
.  
In the ED the patient's vitals were 98.7 91 108/67 18 100% RA. 
Labs demonstrated AST/ALT elevation to 60-80 range, up from 
normal in ___. She was given IV Toradol and morphine for pain 
control. She was also empirically started on ___ IV 20 hour 
protocol with 150 mg/kg over 60 minute loading dose followed by 
50mg/kg over 4 hours. The plan was to complete the protocol with 
6.25 mg/kg/hr over 15 hours, but the patient declined and wanted 
to go home. A psychiatry consult was obtained that determined 
the patient was competent to leave but she changed her mind was 
admitted for further evaluation. Repeat LFTs demonstrated 
improvement in the ALT/AST, from 54 and 60 to 47 and 47 for ALT 
and AST respectively.  
.
She was managed using the N-Acetylcysteine protocol with 
progressive resolution of her transaminitis. On day of 
discharge, her pain was subjectively well controlled with only 
minimal MSK pain appreciable on exam.
.
Her other medical problems were stable and no changes were made 
to the medications except for the addition of ibuprofen OTC and 
lidocaine 5% patch. 
 
Medications on Admission:
Calcium  
Humalong BID  
Humulin 100 BID  
ASA 81  
Simvastatin 10  
Omperazole 20  
Levothyroxine 88  
Dilantin ER 300 daily
 
Discharge Medications:
1. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Phenytoin Sodium Extended 100 mg Capsule Sig: Three (3) 
Capsule PO DAILY (Daily).
Disp:*90 Capsule(s)* Refills:*2*
3. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily) for 5 
days.
Disp:*5 Adhesive Patch, Medicated(s)* Refills:*1*
6. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for pain for 10 days.
Disp:*60 Tablet(s)* Refills:*0*
7. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Calcium 500 mg Tablet Sig: One (1) Tablet PO once a day: 
Return to home Calcium dose.  
9. Humalog
Please continue home Humalog and Humalin per home regimen 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
S/P Fall and Acetaminophen toxicity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for 
evaluation of rib pain after a fall and ingestion of a high dose 
of Nyquil. Your labs showed a bump in your liver function tests 
which resolved;and this was likely from the nyquil you took. You 
were given IVF overnight and monitored. In addition, x-rays 
revealed no evidence of rib fracture. You were provided and 
analgesic patch for rib pain. 
.
.
The Following CHANGES have been made:
You were STARTED on Lidocaine 5% Patch that is applied to skin.
.
Please follow up with your PCP ___ this week.  You will 
need to call for an appt.
 
Followup Instructions:
___